US07317025B2
trans-2-Phenyl-ethenesulfonic acid(1-acetyl-2,3-dihydro-1H-indol-6-yl)-(1-benzyl-piperidin-4-yl)-amide
A mixture of 1-[6-(1-benzyl-piperidin-4-ylamino)-2,3-dihydro-indol-1-yl]-ethanone (0.10 g, 0.29 mmol), 2-phenyl-ethenesulfonyl chloride (87 mg, 0.43 mmol), and TEA (0.08 mL, 0.57 mmol) in CH2Cl2 (5 mL) was stirred at rt for 20 h. The reaction mixture was concentrated, and the residue was purified on silica gel (60-70% EtOAc/hexanes) to afford the title compound (138 mg, 92%). 1H NMR (500 MHz, CDCl3): 8.12 (s, 1H), 7.50-7.48 (m, 2H), 7.43 (s, 1H), 7.41-7.39 (m, 3H), 7.25 (d, J=6.8 Hz, 2H), 7.20 (t, J=7.0 Hz, 3H), 7.15 (d, J=7.9 Hz, 1H), 6.91 (d, J=7.8 Hz, 1H), 6.86 (d, J=15.0 Hz, 1H), 4.13 (t, J=8.0 Hz, 2H), 3.98-3.40 (m, 1H), 3.41 (s, 2H), 3.20 (t, J=8.5 Hz, 2H), 2.87 (d, J=10.5 Hz, 2H), 2.20 (s, 3H), 2.06-2.02 (m, 2H), 1.88 (d, J=10.7 Hz, 2H), 1.61-1.55 (m, 2H). MS: exact mass calculated for C30H33N3O3S, 515.22; m/z found, 516.3 [M+H]+.

reactant | 1-[6-(1-benzyl-piperidin-4-ylamino)-2,3-dihydro-indol-1-yl]-ethanone | 0.29 mmol, 0.10 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C2CCN(C2=C1)C(C)=O | C22H27N3O
reactant | 2-phenyl-ethenesulfonyl chloride | 0.43 mmol, 87 mg | C1(=CC=CC=C1)C=CS(=O)(=O)Cl | C8H7ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | trans-2-Phenyl-ethenesulfonic acid(1-acetyl-2,3-dihydro-1H-indol-6-yl)-(1-benzyl-piperidin-4-yl)-amide | 138 mg, 92% | C(C)(=O)N1CCC2=CC=C(C=C12)N(S(=O)(=O)\C=C\C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1 | C30H33N3O3S
